US04268509
Preparation of Methyl 5-amino-1,2,4-thiadiazole-3-carboxylate
To a solution of 1-ethoxycarbonylformamidine. hydrobromide (16.6 g.) in absolute methanol (84 ml) was added a solution of sodium (1.93 g) in absolute methanol (42 ml) at 0° C. To the mixture were added alternately bromine (12.8 g) and a solution of sodium (1.93 g) in absolute methanol (42 ml) at 0° C. and then to the suspension was added potassium thiocyanate (8.1 g) in absolute methanol (100 ml). The reaction mixture was stirred for an hour at 0° C. and for an additional 6 hours at ambient temperature. The mixture was filtered through cellulose powder and the filtrate was evaporated to dryness. The residue was dissolved in a mixture of ethyl acetate and water, and then the ethyl acetate layer was separated and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was triturated with diethyl ether to give the title compound (9.0 g), mp. 202° to 205° C.

reactant | 1-ethoxycarbonylformamidine. hydrobromide | 16.6 g | Br.C(C)OC(=O)C(=N)N
reactant | sodium | 1.93 g | [Na] | Na
reactant | bromine | 12.8 g | BrBr | Br2
reactant | sodium | 1.93 g | [Na] | Na
reactant | potassium thiocyanate | 8.1 g | [S-]C#N.[K+]
solvent | methanol | 84 ml | CO | CH4O
solvent | methanol | 42 ml | CO | CH4O
solvent | methanol | 42 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | Methyl 5-amino-1,2,4-thiadiazole-3-carboxylate | 9.0 g | NC1=NC(=NS1)C(=O)OC | C4H5N3O2S
